US06031121
Synthesis of 2-benzylidene-3-hydroxypropionic acid
The product (143.9 g) in Reference Example 2, namely 2-benzylidene-3-acetoxypropionate methyl ester, is dissolved in methanol (400 ml), followed by addition of an aqueous solution of sodium hydroxide (96.0 g; 2.40 mol; purity of 97%) in water (800 ml). The resulting mixture is stirred at ambient temperature for 90 minutes. The reaction solution is concentrated under reduced pressure to distill off methanol, followed by addition of water (100 ml) and 36% hydrochloric acid (250 ml) for adjusting the resulting mixture to neutrality and subsequent extraction into ethyl acetate (600 ml). The resulting organic phase is washed with saturated saline (300 ml). After filtering off insoluble matters, the resulting solution is concentrated under reduced pressure. To the resulting residue is added toluene (250 ml×4), and the mixture is concentrated under reduced pressure to remove acetic acid to give a crude product of the title compound (107.8 g).

reactant | sodium hydroxide | 2.40 mol, 96.0 g | [OH-].[Na+]
reactant | 2-benzylidene-3-acetoxypropionate methyl ester | COC(C(COC(C)=O)=CC1=CC=CC=C1)=O | C13H14O4
solvent | methanol | 400 ml | CO | CH4O
solvent | water | 800 ml | O | H2O
product | 2-benzylidene-3-hydroxypropionic acid | 107.8 g | C(C1=CC=CC=C1)=C(C(=O)O)CO | C10H10O3
